US05621088
Attempted Reaction of Cis-Epoxysuccinic Acid Following Example 1 of U.S. Pat. No. 4,929,722
The resulting heterogeneous reaction mixture, which was lumpy and hardened, was neutralized by addition of 15% aqueous tartaric acid solution. The polymer was filtered and a small portion was ground thoroughly. The ground material was extracted with 2-propanol for 24 hrs in a Soxhlet extractor and dried to afford a pale brown solid which was not soluble to any extent in distilled water.

reactant | tartaric acid | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
solvent | water | O | H2O
product | Cis-Epoxysuccinic Acid | [C@@H]1([C@H](O1)C(=O)O)C(=O)O | C4H4O5
